US07652157B2
A 0.1 M solution of diethylzinc in heptane (40 ml, Aldrich) was transferred into a 500-ml three-neck round bottom flask equipped with a thermometer, addition funnel, magnetic stirring and a Liebig condenser attached to argon-vacuum line. Anhydrous isopraponol (6 ml, Aldrich) was slowly added under vigorous stirring. Additional 50 ml of anhydrous isopropanol were added and the mixture was refluxed for 1 hour. Volatiles were removed under reduced pressure affording white crystalline zinc isopropoxide, which was dried under vacuum at 80° C. for an hour. Dry cyclohexane (250 ml ) was added into the flask, and the solid quickly dissolved. The mixture was heated to 55-60° C., and 17.0 g of acetoxypentamethyldisiloxane (82 mmol) in 50 ml of dry cyclohexane was added dropwise during 1 hour under vigorous stirring. The mixture was heated to 55-60° C. for additional 2 hours and was allowed to cool to room temperature. Volatiles were removed under reduced pressure. A solid waxy residue was dried under vacuum at 50° C., then was transferred into a sublimation apparatus, and was sublimed at 110° C./0.02 torr to afford 9.7 g of white solid Zn(OSi(CH3)2OSi(CH3)3)2.

reactant | diethylzinc | C(C)[Zn]CC
reactant | isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | heptane | 40 ml | CCCCCCC | C7H16
product | zinc isopropoxide | CC([O-])C.[Zn+2].CC([O-])C | InChI=1S/2C3H7O.Zn/c2*1-3(2)4;/h2*3H,1-2H3;/q2*-1;+2
